US07053082B1
5-(3-methyl-4-nitro-phenyl)-8-(semicarbazono-methyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine
A mixture of 3.51 g (10.0 millimoles) of 8-formyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine, 1.34 g (12.0 millimoles) of semicarbazide hydrochloride, 1.01 g (12.0 millimoles) of anhydrous sodium acetate and 100 ml of anhydrous ethanol is stirred under boiling for 6 hours. The reaction mixture is evaporated in vacuo, the residue is suspended in 100 ml of water, stirred at room temperature for half an hour, filtered and washed with 25 ml of water. The crude product thus obtained is heated to boiling in 75 ml of acetone for half an hour, cooled with icecold water, the precipitated product is filtered and washed with 10 ml of cold acetone. Thus 3.34 g of the desired compound are obtained, yield 81%, mp.: 260–264° C.

reactant | 8-formyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 10.0 millimoles, 3.51 g | C(=O)C1=NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H13N3O5
reactant | semicarbazide hydrochloride | 12.0 millimoles, 1.34 g | Cl.NNC(=O)N
reactant | sodium acetate | 12.0 millimoles, 1.01 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 5-(3-methyl-4-nitro-phenyl)-8-(semicarbazono-methyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 3.34 g, yield 81% | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C=NNC(=O)N | C19H16N6O5
